US05128351
4-(Tetradecyloxy)-N-[3-(2-thiazolyl)phenyl]benzeneacetamide
A mixture of 10 g of N-[3-iodophenyl)-4-(tetradecyloxy)benzeneacetamide, 4.96 g of 2-(trimethylstannyl)thiazole, and 638.62 mg of dichlorobis(triphenylphosphine)palladium (II) in 100 ml of tetrahydrofuran is refluxed under argon for 6 hours. The solvent is evaporated and the residue is partitioned between chloroform and 1N sodium hydroxide. The organic layer is dried and evaporated to a yellow solid residue. The residue is purified by chromatography on silica gel using chloroform. A total of 3.5 g of starting material is recovered as well as impure product which is crystallized from hexane:carbon tetrachloride to give 1.8 g of the desired product as a tan solid, m.p. 128°-131° C.

reactant | N-[3-iodophenyl)-4-(tetradecyloxy)benzeneacetamide | 10 g | IC=1C=C(C=CC1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C28H40INO2
reactant | 2-(trimethylstannyl)thiazole | 4.96 g | C[Sn](C=1SC=CN1)(C)C
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | dichlorobis(triphenylphosphine)palladium | 638.62 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(Tetradecyloxy)-N-[3-(2-thiazolyl)phenyl]benzeneacetamide | 1.8 g | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)CC(=O)NC1=CC(=CC=C1)C=1SC=CN1 | C31H42N2O2S
